US09061991B2
30.0 g (174 mmol) of 1,4-diacetoxy-2-butene (trans/cis=85/15), 150 mL of toluene, and 300 mL of a 50% sodium hydroxide aqueous solution were added into a four-necked flask (1 L), and thereafter, 2.81 g (8.71 mmol) of tetra-n-butylammonium bromide was added thereto as a phase-transfer catalyst. The obtained mixture was stirred at room temperature for 1 hour, and 79.7 g (418 mmol) of 4-toluenesulfonyl chloride was then added to the reaction solution. The obtained mixture was stirred at room temperature for 5 hours, and 480 mL of water and 150 mL of toluene were then added to the reaction solution to facilitate liquid separation. The mixture was stirred, and an organic layer was then separated. A water layer was re-extracted with 150 mL of toluene, and organic layers were then gathered. The gathered organic layer was washed with 120 mL of water three times, and the resultant was filtrated, while washing the residue with toluene. The obtained filtrate was concentrated at 45° C. under reduced pressure. Thereafter, 60 mL of toluene was added to the residue, and the residue was completely dissolved therein at 60° C. Thereafter, the obtained solution was gradually cooled to 0° C., and it was then stirred for 1 hour. The precipitated crystal was collected by filtration. The obtained crystal was washed with 30 mL of cold toluene, and it was then dried at room temperature, so as to obtain 35.4 g of trans-1,4-di-4-toluenesulfonyloxy-2-butene in the form of a colorless crystal (yield: 51%, trans/cis=100/0). As a result of NMR analysis, the colorless crystal was confirmed to be trans-1,4-di-4-toluenesulfonyloxy-2-butene.

reactant | 1,4-diacetoxy-2-butene | 174 mmol, 30.0 g | C(C)(=O)OCC=CCOC(C)=O | C8H12O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-toluenesulfonyl chloride | 418 mmol, 79.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | tetra-n-butylammonium bromide | 8.71 mmol, 2.81 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 480 mL | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | trans-1,4-di-4-toluenesulfonyloxy-2-butene | 35.4 g, yield: 51% | C1(=CC=C(C=C1)S(=O)(=O)OC\C=C\COS(=O)(=O)C1=CC=C(C=C1)C)C | C18H20O6S2
